US08426420B2
ii) (S)-2-Methyl-piperazine-1-carboxylic acid benzyl ester hydrotrifluoroacetate
A solution of 4.3 g (S)-2-Methyl-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester in 20 ml dichloromethane was stirred in the presence of 10 ml TFA for 16 h. The solution was concentrated and the residue codistilled twice with toluene to give the crude hydrotrifluoroacetate. Yield: 6.4 g.

reactant | (S)-2-Methyl-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester | 4.3 g | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C18H26N2O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-2-Methyl-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CNCC1)C | C13H18N2O2
